US04166131
2,2,α-trimethyl-5-indanacetic acid [process variant (d)]
17 g of 2,2,α-trimethyl-5-indanacetic acid methyl ester are saponified together with 8.2 g of potassium hydroxide in 160 cc of methanol and 16 cc of water in a manner analogous to that described in Example 25. After working up the reaction mixture, oily 2,2,α-trimethyl-5-indanacetic is obtained. The cyclohexylammonium salt of the title compound has a M.P. of 180°-183° (from ethanol).

reactant | 2,2,α-trimethyl-5-indanacetic acid methyl ester | 17 g | COC(C(C=1C=C2CC(CC2=CC1)(C)C)C)=O | C15H20O2
reactant | potassium hydroxide | 8.2 g | [OH-].[K+]
reactant | cyclohexylammonium | C1(CCCCC1)[NH3+]
solvent | methanol | 160 cc | CO | CH4O
solvent | water | 16 cc | O | H2O
product | 2,2,α-trimethyl-5-indanacetic acid | CC1(CC2=CC=C(C=C2C1)C(C(=O)O)C)C | C14H18O2
